US05288726
5-(2-Chloro-α-trifluoroacetylbenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (Compound No. 113)
10 ml of methylene chloride were added to 0.39 g (2.6 mmole) of 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride and 0.28 g (2.6 mmole) of sodium carbonate, and then a solution of 0.67 g (2.2 mmole) of 2-chloro-α-trifluoroacetylbenzyl bromide in 10 ml of methylene chloride was slowly added to the resulting mixture, whilst stirring at room temperature. The mixture was then stirred at room temperature for 3 hours. At the end of this time, 200 ml of ethyl acetate were added to the reaction mixture, and the organic layer was separated, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was subjected to silica gel column chromatography, using a 100:4 by volume mixture of toluene and ethyl acetate as the eluent, to give 0.31 g of the title compound as a colorless oil.

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 2.6 mmole, 0.39 g | Cl.S1C=CC=2CNCCC21
reactant | sodium carbonate | 2.6 mmole, 0.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-α-trifluoroacetylbenzyl bromide | 2.2 mmole, 0.67 g | ClC1=C(C(C(C(F)(F)F)=O)Br)C=CC=C1 | C9H5BrClF3O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-Chloro-α-trifluoroacetylbenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 0.31 g | ClC1=C(C(C(C(F)(F)F)=O)N2CC3=C(CC2)SC=C3)C=CC=C1 | C16H13ClF3NOS
